US08877975B2
To a solution of 3-aminomethyl-3-(3,4-dichloro-phenyl)-1-methyl-cyclohexanol (0.5 g, 1.74 mmoL) in CH2Cl2 (15 mL) was added Et3N (528 mg, 727 mL, 5.22 mmol) and (BOC)2O (567 mg, 2.60 mmol). The reaction mixture was stirred for 2 h at room temperature before being quenched by a saturated NH4Cl solution (10.0 mL). The product was extracted with CH2Cl2 (2×15 mL). The combined extracts were washed with saturated brine, dried and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1:5) to afford (±)tert-butyl (1-(3,4-dichlorophenyl)-3-hydroxy-3-methylcyclohexyl)-methylcarbamate (0.61 g, 90%). The enantiomers were separated (chiral AD column with hexane/iso-propanol/DEA=95:5:0.1) to afford the fast moving enantiomer E1 (0.22 g, retention time 4.085 min) and the slow moving enantiomer E2 (0.32 g, retention time 6.051 min). To a solution of the respective enantiomer E1 (200 mg, 0.52 mmol) or E2 (200 mg, 0.52 mmol) in CH2Cl2 (4 mL) was added TFA (2.0 mL). The reaction mixtures were stirred for 0.5 h before being concentrated. The mixtures were each purified by reverse phase column chromatography (CH3CN/H2O) to give the amines 193 E1 and 193 E2 in each 80% yield. 1H NMR (400 MHz, CDCl3) δ 8.32 (broad, 1H), 7.58 (d, J=2.0 Hz, 1H), 7.53 (d, J=8.4 Hz, 1H), 7.37 (dd, J=2.0, 8.4 Hz, 1 H), 3.55 (s, 2 H), 2.15 (m, 2 H) 1.88 (m, 1H), 1.74-1.58 (m, 4 H), 1.40 (m, 1 H), 1.21 (m, 3 H); 13CNMR (100 MHz, CD3OD) δ 146.42, 132.75, 131.01, 130.83, 128.41, 125.97, 69.31, 46.48, 44.85, 40.15, 37.81, 32.81, 32.54, 30.91, 18.17; ESI MS m/z=288.4.

reactant | 3-aminomethyl-3-(3,4-dichloro-phenyl)-1-methyl-cyclohexanol | 0.5 g | NCC1(CC(CCC1)(O)C)C1=CC(=C(C=C1)Cl)Cl | C14H19Cl2NO
reactant | Et3N | 5.22 mmol, 727 mL, 528 mg | CCN(CC)CC | C6H15N
reactant | (BOC)2O | 2.60 mmol, 567 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (±)tert-butyl (1-(3,4-dichlorophenyl)-3-hydroxy-3-methylcyclohexyl)-methylcarbamate | 0.61 g, 90% | ClC=1C=C(C=CC1Cl)C1(CC(CCC1)(C)O)N(C(OC(C)(C)C)=O)C | C19H27Cl2NO3
